US07378420B2
D. Synthesis of 3,5-dimethyl-1-((1-methylpiperidin-4-yl)methyl)piperazine
To a solution of tert-butyl-4-(3,5-dimethylpiperazine-1-carbonyl)piperidine-1-carboxylate (1.9 g, 5.8 mmol) in THF (50 ml) was added LiAlH4 (18.7 mmol) in portions. The resulting mixture was stirred at room temperature overnight. The mixture was quenched with ethyl acetate and methanol then made alkaline with 10% NaOH solution and extracted with ethyl acetate (3×40). The combined organic solution was dried and concentrated to give 1.2 g of desired product.

reactant | tert-butyl-4-(3,5-dimethylpiperazine-1-carbonyl)piperidine-1-carboxylate | 5.8 mmol, 1.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CC(NC(C1)C)C | C17H31N3O3
reactant | LiAlH4 | 18.7 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3,5-dimethyl-1-((1-methylpiperidin-4-yl)methyl)piperazine | 1.2 g | CC1CN(CC(N1)C)CC1CCN(CC1)C | C13H27N3
